### PR TITLE
[Merged by Bors] - chore(Algebra/MonoidAlgebra): reduce dependence on defeq abuse, golf

### PR DESCRIPTION
**Pull request by YaelDillies**
This is crucial for #25273.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Support.lean [hunk 1]
```diff
@@ -116,18 +116,10 @@ variable {k : Type u₁} {G : Type u₂} [Semiring k]
 section Span
 
 /-- An element of `k[G]` is in the submodule generated by its support. -/
-theorem mem_span_support [AddZeroClass G] (f : k[G]) :
-    f ∈ Submodule.span k (of k G '' (f.support : Set G)) := by
-  simp only [of, MonoidHom.coe_mk, OneHom.coe_mk]
-  rw [← Finsupp.supported_eq_span_single, Finsupp.mem_supported]
+theorem mem_span_support (f : k[G]) : f ∈ Submodule.span k (of' k G '' f.support) := by
+  erw [← Finsupp.supported_eq_span_single, Finsupp.mem_supported]
```
Comment (erdOne) [inline Mathlib/Algebra/MonoidAlgebra/Support.lean]: What's happening here?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/Support.lean]: 🤫

**Review by j-loreaux — COMMENTED** [review]
This is an obvious win

bors merge
